US04358307
4-[N-Methyl-N-(3-chloro-2-quinoxalinyl)amino]phenol was reacted with ethyl 2-bromopropionate, following essentially the same procedure as that described in Example 1 Part (b), to give ethyl 2-{4-[N-methyl-N-(3-chloro-2-quinoxalinyl)amino]phenoxy}propionate as an oil.

reactant | 4-[N-Methyl-N-(3-chloro-2-quinoxalinyl)amino]phenol | CN(C1=NC2=CC=CC=C2N=C1Cl)C1=CC=C(C=C1)O | C15H12ClN3O
reactant | ethyl 2-bromopropionate | BrC(C(=O)OCC)C | C5H9BrO2
product | ethyl 2-{4-[N-methyl-N-(3-chloro-2-quinoxalinyl)amino]phenoxy}propionate | CN(C1=NC2=CC=CC=C2N=C1Cl)C1=CC=C(OC(C(=O)OCC)C)C=C1 | C20H20ClN3O3
